US07547691B2
{2-[5-Methyl-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophen-6-yl}-morpholin-4-ylmethanone
Using the method of 2-[5-bromo-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide, the title compound is synthesized from [2-(2-chloro5-methylpyrimidin-4-yl)-benzo[b]thiophen-6-yl]-morpholin-4-yl-methanone and 4-(2-aminoethyl)-piperidine-1-carboxylic acid tert-butyl ester and isolated as a yellow solid. ES+(m/z) 466 [M+H].

reactant | 2-[5-bromo-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCC2CCNCC2 | C23H26BrN5OS
reactant | [2-(2-chloro5-methylpyrimidin-4-yl)-benzo[b]thiophen-6-yl]-morpholin-4-yl-methanone | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=C(C=C2)C(=O)N2CCOCC2)C | C18H16ClN3O2S
reactant | 4-(2-aminoethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
product | {2-[5-Methyl-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophen-6-yl}-morpholin-4-ylmethanone | CC=1C(=NC(=NC1)NCCC1CCNCC1)C1=CC2=C(S1)C=C(C=C2)C(=O)N2CCOCC2 | C25H31N5O2S
